US07612075B2
Magnesium (1.2 g, 50 mmol) is dissolved in 40 ml of methanol. A solution of ethyl-(2-formyl-5-chloro-phenoxy)-acetate (2.1 g, 8.65 mmol) in 15 ml of methanol is added and the resulting mixture is heated under reflux for one hour, cooled, poured in 1N hydrochloric acid (150 ml). After stirring at room temperature the yellow solid is filtered, washed thoroughly with water and dried. Methyl-6-chloro-benzofurancarboxylate is obtained as a yellow solid (0.835 g, 46% yield). C10H7ClO3, MS (M+): 210, Cl pattern

reactant | Magnesium | 50 mmol, 1.2 g | [Mg] | Mg
reactant | ethyl-(2-formyl-5-chloro-phenoxy)-acetate | 8.65 mmol, 2.1 g | C(C)OC(COC1=C(C=CC(=C1)Cl)C=O)=O | C11H11ClO4
solvent | methanol | 40 ml | CO | CH4O
solvent | methanol | 15 ml | CO | CH4O
solvent | hydrochloric acid | 1N, 150 ml | Cl | ClH
product | Methyl-6-chloro-benzofurancarboxylate | COC(=O)C=1OC2=C(C1)C=CC(=C2)Cl | C10H7ClO3
